US06849649B2
Methyl-2-(4-chlorophenyl)-3-cyanopropanoate
To a stirred solution of diisopropylamine (8.65 ml, 61.8 mmol) in dry THF (100 ml) at −20° C. under nitrogen was added a 2.5M solution of nBuLi in hexanes (23.7 ml, 59.2 mmol) dropwise. The solution was allowed to warm to 0° C. over 20 min, and then cooled to −70° C. A solution of methyl-2-(4-chlorophenyl)acetate (9.5 g, 51.5 mmol) in THF (5 ml) was added dropwise over 5 min, and the whole then stirred for 30 min. Iodoacetonitrile (5.03 ml, 69.5 mmol) was then added slowly, and the combined solution allowed to warm to room temperature over 72 h. Saturated aq. NaHCO3 solution (20 ml) was added, the mixture was concentrated to about 50 ml under vacuum, and then treated with 1N HCl (100 ml). The mixture was extracted with EtOAc (120 ml) which was dried (MgSO4) and evaporated to give a dark brown oil, which was purified by column chromatography using 2:1 DCM:pentane as eluant to give the title product (8.6 g, 75%); 1HNMR (400 MHz, CDCl3) δ: 2.80 (dd, 1H), 3.00 (d, 1H), 3.73 (s, 3H), 3.92 (dd, 1H), 7.22 (d, 2H), 7.37 (d, 2H).

reactant | diisopropylamine | 61.8 mmol, 8.65 ml | C(C)(C)NC(C)C | C6H15N
reactant | nBuLi | [Li]CCCC
reactant | methyl-2-(4-chlorophenyl)acetate | 51.5 mmol, 9.5 g | COC(CC1=CC=C(C=C1)Cl)=O | C9H9ClO2
reactant | Iodoacetonitrile | 69.5 mmol, 5.03 ml | ICC#N | C2H2IN
reactant | NaHCO3 | 20 ml | C(=O)(O)[O-].[Na+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | Methyl-2-(4-chlorophenyl)-3-cyanopropanoate | 8.6 g, 75% | COC(C(CC#N)C1=CC=C(C=C1)Cl)=O | C11H10ClNO2
